US07435735B2
Step 1: Benzyl 2-amino-2-methylpropylcarbamate
To a solution of 2-methylpropane-1,2-diamine (10.00 g, 113.44 mmol) and Hunig's base (23.71 mL. 136.13 mmol) in anhydrous CH2Cl2 (378 mL) at 0° C. under an atmosphere of nitrogen was added dibenzyl dicarbonate (32.48 g, 113.44 mmol). The reaction was stirred at room temperature overnight. The solvent was removed in vacuo, and the resulting residue was suspended in H2O (600 ml) and acidified to pH 2 with aqueous 1N HCl. The mixture was washed twice with CH2Cl2, and the aqueous layer was made strongly basic with aqueous 1N NaOH. The solution was extracted four times with CH2Cl2, and the combined organic layers were dried over Na2SO4, filtered, and concentrated in vacuo to afford the product as a colorless oil.

reactant | 2-methylpropane-1,2-diamine | 113.44 mmol, 10.00 g | CC(CN)(C)N | C4H12N2
reactant | Hunig's base | 136.13 mmol, 23.71 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | dibenzyl dicarbonate | 113.44 mmol, 32.48 g | C(=O)(OCC1=CC=CC=C1)OC(=O)OCC1=CC=CC=C1 | C16H14O5
solvent | CH2Cl2 | 378 mL | C(Cl)Cl | CH2Cl2
product | Benzyl 2-amino-2-methylpropylcarbamate | NC(CNC(OCC1=CC=CC=C1)=O)(C)C | C12H18N2O2
